US09233946B2
3-[[5-(2-Methyl-1,3-thiazol-4-yl)-2-thienyl]sulfonylamino]benzoic acid
The product was prepared according to General Procedure 1, described in Example 1, starting with 5-(2-methylthiazol-4-yl)thiophene-2-sulfonyl chloride (15.4 mg, 0.055 mmol) and 3-aminobenzoic acid (6.9 mg, 0.05 mmol) affording 2.6 mg (14%) of the title compound. MS (ESI+) calcd for C15H21N2O4S3 379.995919, found 379.995859.

reactant | 5-(2-methylthiazol-4-yl)thiophene-2-sulfonyl chloride | 0.055 mmol, 15.4 mg | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)Cl | C8H6ClNO2S3
reactant | 3-aminobenzoic acid | 0.05 mmol, 6.9 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 3-[[5-(2-Methyl-1,3-thiazol-4-yl)-2-thienyl]sulfonylamino]benzoic acid | 2.6 mg, 14% | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C15H12N2O4S3
